US05118669
To a solution of 20.35 g of H-Lys(Z)-OBzl.HCl (manufactured by Kokusan Kagaku) in 35 ml of dimethylformamide (called DMF hereinbelow), after neutralized by addition under cooling with ice of 7 ml of triethylamine, were added 8.76 g of Boc-Gly-OH (manufactured by Kokusan Kagaku), 7.43 g of HOBt (manufactured by Kokusan Kagaku) and 11.35 g of DCC (manufactured by Kokusan Kagaku). The mixture was stirred for 3 hours and at 4° C. for additional 16 hours. Dicyclohexylurea by-product was removed by filtration followed by addition of 300 ml of ethyl acetate. The resulting mixture was washed successively with saturated aqueous sodium chloride, 8% by weight aqueous sodium carbonate, saturated aqueous sodium chloride, 8% by weight aqueous citric acid and saturated aqueous sodium chloride. From the ethyl acetate layer, after dried over anhydrous sodium sulfate, was removed the solvent, and the residue was again dissolved in a small amount of ethyl acetate. From the solution after filtered, the solvent was completely distilled off to give 21.1 g (80% yield) of Boc-Gly-Lys(Z)-OBzl as an oily substance.

reactant | H-Lys(Z)-OBzl.HCl | 20.35 g | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1.Cl
reactant | Boc-Gly-OH | 8.76 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | HOBt | 7.43 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 11.35 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | DMF | CN(C)C=O | C3H7NO
solvent | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
product | Boc-Gly-Lys(Z)-OBzl | 21.1 g, 80% yield | N(CC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C28H37N3O7
